US08802663B2
Step 2: tert-butyl 3[7-[amino(hydroxyimino)methyl]-3,4-dihydroisoquinolin-2(1H)yl]propanoate
tert-Butyl 3-(7-cyano-3,4-dihydroisoquinolin-2(1H)-yl)propanoate (11.85 g; 41.38 mmol; 1 eq.) was suspended in EtOH (237 mL). Hydroxylamine (6.1 mL; 206.90 mmol; 5 eq.) was added in one portion. The reaction mixture was stirred at RT for 48 h. The reaction mixture was concentrated under vacuum to give the title compound as a yellow oil. Diisopropyl ether (50 mL) was added. The resulting mixture was sonicated and concentrated under vacuum. This process was repeated 3 times, affording Intermediate 35 as a yellowish solid (13.2 g; quantitative). 1H NMR: (DMSO-d6, 400 MHz) δ 9.51 (br s, 1H), 7.43-7.34 (m, 2H), 7.09-7.06 (d, J=8.17 Hz, 1H), 5.71 (br s, 2H), 3.56 (s, 2H), 2.79-2.64 (m, 6H), 2.47-2.42 (t, J=6.93 Hz, 2H), 1.39 (s, 9H), traces of EtOH by NMR. HPLC/MS: 320.1.

reactant | tert-Butyl 3-(7-cyano-3,4-dihydroisoquinolin-2(1H)-yl)propanoate | 41.38 mmol, 11.85 g, 1 eq. | C(#N)C1=CC=C2CCN(CC2=C1)CCC(=O)OC(C)(C)C | C17H22N2O2
reactant | Hydroxylamine | 206.90 mmol, 6.1 mL, 5 eq. | NO | H3NO
solvent | EtOH | 237 mL | CCO | C2H6O
product | tert-butyl 3[7-[amino(hydroxyimino)methyl]-3,4-dihydroisoquinolin-2(1H)yl]propanoate | NC(C1=CC=C2CCN(CC2=C1)CCC(=O)OC(C)(C)C)=NO | C17H25N3O3
